US04853408
A mixture of 100 mg of 4-hydroxy-acetophenone, 96 mg of n-tetrabutylammonium acid sulfate, 1.5 ml of 50% sodium hydroxide solution, 3 ml of benzene, 1.5 ml of acetonitrile and 0.2 ml of 2-chloroethyl p-toluene sulfonate was refluxed for 18 hours under an inert atmosphere and the decanted phase was extracted with benzene. The organic phase was washed with water, dried over a deshydrant and evaporated to dryness under reduced pressure. The residue was chromatographed over silica and eluted with dichloroethane to obtain 127 mg of 1-[4-(2-chloroethoxy)-phenyl]-ethanone melting at ≃62° C.

reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | benzene | 3 ml | C1=CC=CC=C1 | C6H6
reactant | 2-chloroethyl p-toluene sulfonate | 0.2 ml | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
reactant | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 1-[4-(2-chloroethoxy)-phenyl]-ethanone | 127 mg | ClCCOC1=CC=C(C=C1)C(C)=O | C10H11ClO2
